US07300943B2
1-tert-Butyl-3,4-diphenyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one
To a stirring solution of crude 2-tert-butyl-5-phenyl-2H-pyrazol-3-ylamine (4.0 g, 18.6 mmol) in AcOH (25 mL) was added ethyl benzoylacetate (6.6 mL, 37.2 mmol). The reaction was then heated to 110° C. for 48 hr, at which time the reaction was cooled to room temperature, diluted with EtOAc, and quenched with a saturated aqueous solution of NaHCO3. The organic layer was dried over MgSO4, filtered through a fritted funnel, and concentrated under reduced pressure. Purification of this material was accomplished by flash chromatography, using an ISCO column (ISCO, Inc., Lincoln, Nebr.), eluting with 15% EtOAc/hexanes. The product-containing fractions were collected and concentrated under reduced pressure to give the title compound (1.0 g, 16% yield) as a tan solid. LRMS m/z (APCl) 344 (M+1).

reactant | 2-tert-butyl-5-phenyl-2H-pyrazol-3-ylamine | 18.6 mmol, 4.0 g | C(C)(C)(C)N1N=C(C=C1N)C1=CC=CC=C1 | C13H17N3
reactant | ethyl benzoylacetate | 37.2 mmol, 6.6 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-tert-Butyl-3,4-diphenyl-1,7-dihydro-pyrazolo[3,4-b]pyridin-6-one | 1.0 g, 16% yield | C(C)(C)(C)N1N=C(C2=C1NC(C=C2C2=CC=CC=C2)=O)C2=CC=CC=C2 | C22H21N3O
